US04973429
Example 7: Synthesis of 2-octadecylamino-3,5-dinitropyridine 7
The synthesis is carried out analogously to Example 1 using 2-chloro-3,5-dinitropyridine (Fluka) and octadecylamine as the starting materials. Octadecylamine is recrystallized several times from ethanol before the synthesis.

reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | octadecylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
product | 2-octadecylamino-3,5-dinitropyridine | C(CCCCCCCCCCCCCCCCC)NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C23H40N4O4
